US08309562B2
N4-(3,4-Dimethoxy-phenyl)-N2,N2,N4-trimethyl-quinazoline-2,4-diamine
A solution of (2-chloro-quinazolin-4-yl)-(3,4-dimethoxy-phenyl)-methyl-amine hydrochloride (105 mg; 0.287 mmol) and ammonium fluoride (73 mg; 1.97 mmol) in DMF (2 mL) was heated at 90° C. After 4 days the reaction was concentrated on a rotary evaporator then saturated NaHCO3 (5 mL) and water (3 mL) were added. Product was extracted into chloroform (4×2 mL) and the combined extracts washed with water (4×2 mL) and brine (3×3 mL). This solution was dried (MgSO4), filtered through silica and washed with 100:10:1 CHCl3:MeOH:concentrated NH4OH, concentrated then purified by MPLC (12 g SiO2/0-10% (20:1 MeOH:concentrated NH4OH) in CHCl3 gradient). Product was obtained as an oil, which solidified to a tan solid under high vacuum (68 mg; 70%). 1H NMR (CDCl3) δ 7.45 (m, 1H), 7.35 (m, 1H), 6.89 (m, 1H), 6.83 (m, 1H), 6.75-6.68 (m, 2H), 6.64 (m, 1H), 3.90 (s, 3H), 3.77 (s, 3H), 3.54 (s, 3H), 3.31 (s, 6H); LC-MS (ESI+; 339 ([M+H]+).

reactant | (2-chloro-quinazolin-4-yl)-(3,4-dimethoxy-phenyl)-methyl-amine hydrochloride | 0.287 mmol, 105 mg | Cl.ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=C(C=C1)OC)OC
reactant | ammonium fluoride | 1.97 mmol, 73 mg | [F-].[NH4+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N4-(3,4-Dimethoxy-phenyl)-N2,N2,N4-trimethyl-quinazoline-2,4-diamine | COC=1C=C(C=CC1OC)N(C1=NC(=NC2=CC=CC=C12)N(C)C)C | C19H22N4O2
